US08207164B2
h) 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholine-3-thione
5-(3-Bromo-phenyl)-5-difluoromethyl-morpholin-3-one (6.10 g, 19.93 mmol) was dissolved in 63 ml dry pyridine, and P2S5 (5.32 g, 23.91 mmol) was added. The mixture was heated to 80° V for 2 hrs. After completion, the mixture was put between ethyl acetate and 1H HCl solution. Phases were separated and the organic phase was washed with 1 N HCl, saturated NaHCO3 solution and brine. The organic phases were combined, dried over Na2SO4 and concentrated under reduced pressure to yield the title compound as off-white solid. 1H-NMR (360 MHz, DMSO-d6): 8.60 (s, 1H, NH), 7.80-7.35 (m, 4H), 6.54 (t, 1H, CHF2), 4.45 (m, 2H), 4.28 (d, 1H), 4.12 (d, 1H); MS: 322 [(M+H)+].

reactant | 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholin-3-one | 19.93 mmol, 6.10 g | BrC=1C=C(C=CC1)C1(COCC(N1)=O)C(F)F | C11H10BrF2NO2
reactant | P2S5 | 23.91 mmol, 5.32 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | Cl | ClH
solvent | pyridine | 63 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholine-3-thione | BrC=1C=C(C=CC1)C1(COCC(N1)=S)C(F)F | C11H10BrF2NOS
